US06833378B2
2-(4-Bromo-2,6-dimethyl-phenoxy)-4-(1-ethyl-propylamino)-6-methyl-pyridin-3-ol
To a solution of [2-(4-bromo-2,6-dimethyl-phenoxy)-3-methoxy-6-methyl-pyridin-4-yl]-(1-ethy-propyl)-amine in methylene chloride was added BBr3 at 0° C. and stirred for hr. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried, and concentrated to give the title compound. 1H NMR(CDCl3) d 7.20(s,2H), 6.12(s,1H), 4.77(d,1H), 3.27(m,1H), 2.13(s,3H), 2.10(s,6H), 1.4-1.8(m, 4H), 0.97(t,6H) ppm.

reactant | [2-(4-bromo-2,6-dimethyl-phenoxy)-3-methoxy-6-methyl-pyridin-4-yl]-(1-ethy-propyl)-amine | BrC1=CC(=C(OC2=NC(=CC(=C2OC)NC(CC)CC)C)C(=C1)C)C | C20H27BrN2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-2,6-dimethyl-phenoxy)-4-(1-ethyl-propylamino)-6-methyl-pyridin-3-ol | BrC1=CC(=C(OC2=NC(=CC(=C2O)NC(CC)CC)C)C(=C1)C)C | C19H25BrN2O2
